US07211573B2
h) (6R,7S)-7-Amino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one
The title compound was prepared in 66% yield by hydrogenation of (6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in methanol with Pd/C (10%), MS m/e (%): 307.1 (M+H+, 100).

reactant | (6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | C(C1=CC=CC=C1)N([C@H]1[C@H](OC2=C(N(C1=O)CC(F)(F)F)C=C(C=C2)F)CC)CC2=CC=CC=C2 | C27H26F4N2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (6R,7S)-7-Amino-6-ethyl-2-fluoro-9-(2,2,2-trifluoro-ethyl)-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 66% yield | N[C@H]1[C@H](OC2=C(N(C1=O)CC(F)(F)F)C=C(C=C2)F)CC | C13H14F4N2O2
